US04083848
The mixture was stirred for 3 hours at the same temperature and allowed to stand overnight. A solution of tert-butyl alcohol (11.1 g.) and pyridine (12 ml.) in toluene (20 ml.) was added dropwise, under ice-cooling, to the resultant mixture containing 2-chlorocarbonyloxyimino-2-(1-naphthyl)-acetonitrile. The mixture was stirred for 6 hours at the same temperature and allowed to stand overnight. The reaction mixture was then washed with water, 1N hydrochloric acid, water, a sodium bicarbonate aqueous solution and water, and dried over magnesium sulfate. The solution was concentrated under reduced pressure and n-hexane and methanol were added to the residue. The mixture was allowed to stand in a refrigerator and the precipitated crystals were collected by filtration and recrystallized twice from methanol to give 2-tert-butoxycarbonyloxyimino-2-(1-naphthyl)acetonitrile (3.3 g.), mp 90° to 92° C.

reactant | tert-butyl alcohol | 11.1 g | C(C)(C)(C)O | C4H10O
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-chlorocarbonyloxyimino-2-(1-naphthyl)-acetonitrile | ClC(=O)ON=C(C#N)C1=CC=CC2=CC=CC=C12 | C13H7ClN2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-tert-butoxycarbonyloxyimino-2-(1-naphthyl)acetonitrile | 3.3 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC2=CC=CC=C12 | C17H16N2O3
